US04232037
Example 6. N-Ethyl-2-(2,6-dimethoxybenzamidomethyl) pyrrolidine hydrochloride
30 ml of thionyl chloride is added to 18.2 g (0.1 mol) of 2,6-dimethoxybenzoic acid. The mixture is heated on a steam bath for 30 minutes. To the solution is added 50 ml of toluene. The solvent and excess thionyl chloride is evaporated at reduced pressure. The residue is dissolved in 50 ml of dry methyl ethyl ketone. The solution is added dropwise while stirring to 12.8 g (0.1 mol) of 2-(aminomethyl)-1-ethyl-pyrrolidine in 50 ml methylethyl ketone. After the addition the mixture is stirred for 30 minutes at room temperature. The obtained precipitate is filtered off, washed with ether and recrystallized from ethanol - isopropyl ether. Yield: 26.7 g, m.p. 182°-84° C.

reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-dimethoxybenzoic acid | 0.1 mol, 18.2 g | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(aminomethyl)-1-ethyl-pyrrolidine | 0.1 mol, 12.8 g | NCC1N(CCC1)CC | C7H16N2
solvent | methylethyl ketone | 50 ml | CC(=O)CC | C4H8O
product | N-Ethyl-2-(2,6-dimethoxybenzamidomethyl) pyrrolidine hydrochloride | Cl.C(C)N1C(CCC1)CNC(C1=C(C=CC=C1OC)OC)=O | InChI=1S/C16H24N2O3.ClH/c1-4-18-10-6-7-12(18)11-17-16(19)15-13(20-2)8-5-9-14(15)21-3;/h5,8-9,12H,4,6-7,10-11H2,1-3H3,(H,17,19);1H
